US07214802B2
To a mixture of 850 mg (5.44 mmol) of 3-methyl-2-methylsulfanyl-3H-imidazole-4-carbaldehyde and 1.34 g (7.00 mmol) of dimethyl 2-oxo-1-diazopropylphosphinate in 15 mL of MeOH was added 1.52 g (11.0 mmol) of K2CO3. The mixture was stirred at room temperature for 28 hours. The mixture was diluted with saturated K2CO3 (10 mL) and and extracted with CH2Cl2 (3×75 mL). The combined extracts were dried over MgSO4, concentrated, and chromatographed (0 to 100% EtOAc in hexanes) to give the 5-ethynyl-1-methyl-2-methylsulfanyl-1H-imidazole (600 mg, 72%) as a colorless liquid.

reactant | 3-methyl-2-methylsulfanyl-3H-imidazole-4-carbaldehyde | 5.44 mmol, 850 mg | CN1C(=NC=C1C=O)SC | C6H8N2OS
reactant | MeOH | 15 mL | CO | CH4O
solvent | K2CO3 | 10 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | K2CO3 | 11.0 mmol, 1.52 g | C(=O)([O-])[O-].[K+].[K+]
product | 5-ethynyl-1-methyl-2-methylsulfanyl-1H-imidazole | 600 mg, 72% | C(#C)C1=CN=C(N1C)SC | C7H8N2S
